US06184225B2
A mixture of 6-methoxy-7-(2-(4-methylpiperazin-1-yl)ethoxy)-3,4-dihydroquinazolin-4-one (500 mg, 1.57 mmol), thionyl chloride (20 ml) and DMF (3 drops) was heated at reflux for 3 hours and allowed to cool. The excess thionyl chloride was removed by evaporation, and the residue was azeotroped with toluene. The residue was treated with aqueous sodium hydrogen carbonate and the product was extracted with methylene chloride. The combined extracts were washed with brine, passed through phase separating paper and the solvent removed by evaporation to give 4-chloro-6-methoxy-7-(2-(4-methylpiperazin-1-yl)ethoxy)quinazoline (120 mg, 23%).

reactant | 6-methoxy-7-(2-(4-methylpiperazin-1-yl)ethoxy)-3,4-dihydroquinazolin-4-one | 1.57 mmol, 500 mg | COC=1C=C2C(NC=NC2=CC1OCCN1CCN(CC1)C)=O | C16H22N4O3
reactant | thionyl chloride | 20 ml | S(=O)(Cl)Cl | Cl2OS
catalyst | DMF | 3 drops | CN(C)C=O | C3H7NO
product | 4-chloro-6-methoxy-7-(2-(4-methylpiperazin-1-yl)ethoxy)quinazoline | 120 mg, 23% | ClC1=NC=NC2=CC(=C(C=C12)OC)OCCN1CCN(CC1)C | C16H21ClN4O2
